************************************************************************
* auCdl Netlist:
* 
* Library Name:  my_sram
* Top Cell Name: sram_col_1b
* View Name:     schematic
* Netlisted on:  Mar 17 23:04:40 2026
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: my_sram
* Cell Name:    sram_6t_cell
* View Name:    schematic
************************************************************************

.SUBCKT sram_6t_cell BL BLB GND VDD WL
*.PININFO GND:I VDD:I WL:I BL:B BLB:B
MM5 net13 net09 GND GND NMOS_VTG W=210.0n L=50n m=1
MM4 net09 net13 GND GND NMOS_VTG W=210.0n L=50n m=1
MM3 BLB WL net13 GND NMOS_VTG W=135.00n L=50n m=1
MM2 BL WL net09 GND NMOS_VTG W=135.00n L=50n m=1
MM7 net13 net09 VDD VDD PMOS_VTG W=90n L=50n m=1
MM6 net09 net13 VDD VDD PMOS_VTG W=90n L=50n m=1
.ENDS

************************************************************************
* Library Name: my_sram
* Cell Name:    precharge_circuit
* View Name:    schematic
************************************************************************

.SUBCKT precharge_circuit BL BLB PRE_B VDD
*.PININFO PRE_B:I BL:B BLB:B VDD:B
MM2 BL PRE_B BLB VDD PMOS_VTG W=180.0n L=50n m=1
MM1 BLB PRE_B VDD VDD PMOS_VTG W=180.0n L=50n m=1
MM0 BL PRE_B VDD VDD PMOS_VTG W=180.0n L=50n m=1
.ENDS

************************************************************************
* Library Name: my_sram
* Cell Name:    small_inv
* View Name:    schematic
************************************************************************

.SUBCKT small_inv GND VDD in out
*.PININFO in:I out:O GND:B VDD:B
MM0 out in VDD VDD PMOS_VTG W=135.00n L=50n m=1
MM1 out in GND GND NMOS_VTG W=90n L=50n m=1
.ENDS

************************************************************************
* Library Name: my_sram
* Cell Name:    write_circuit
* View Name:    schematic
************************************************************************

.SUBCKT write_circuit BL BLB D GND VDD W_EN
*.PININFO D:I W_EN:I BL:B BLB:B GND:B VDD:B
MM3 net22 net21 GND GND NMOS_VTG W=180.0n L=50n m=1
MM2 BLB W_EN net22 GND NMOS_VTG W=180.0n L=50n m=1
MM1 net20 D GND GND NMOS_VTG W=180.0n L=50n m=1
MM0 BL W_EN net20 GND NMOS_VTG W=180.0n L=50n m=1
XI0 GND VDD D net21 / small_inv
.ENDS

************************************************************************
* Library Name: my_sram
* Cell Name:    sence_amp
* View Name:    schematic
************************************************************************

.SUBCKT sence_amp BL BLB GND SE VDD
*.PININFO SE:I BL:B BLB:B GND:B VDD:B
MM6 net25 SE VDD VDD PMOS_VTG W=135.00n L=50n m=1
MM2 net15 net25 VDD VDD PMOS_VTG W=135.00n L=50n m=1
MM1 BL BLB net15 VDD PMOS_VTG W=135.00n L=50n m=1
MM0 BLB BL net15 VDD PMOS_VTG W=135.00n L=50n m=1
MM7 net25 SE GND GND NMOS_VTG W=90n L=50n m=1
MM5 net17 SE GND GND NMOS_VTG W=90n L=50n m=1
MM4 BL BLB net17 GND NMOS_VTG W=90n L=50n m=1
MM3 BLB BL net17 GND NMOS_VTG W=90n L=50n m=1
.ENDS

************************************************************************
* Library Name: my_sram
* Cell Name:    sram_col_1b
* View Name:    schematic
************************************************************************

.SUBCKT sram_col_1b BL BLB D PRE_B SE WL0 WL1 WL2 WL3 W_EN gnd vdd
*.PININFO BL:B BLB:B D:B PRE_B:B SE:B WL0:B WL1:B WL2:B WL3:B W_EN:B gnd:B 
*.PININFO vdd:B
XI3 BL BLB gnd vdd WL3 / sram_6t_cell
XI2 BL BLB gnd vdd WL2 / sram_6t_cell
XI1 BL BLB gnd vdd WL1 / sram_6t_cell
XI0 BL BLB gnd vdd WL0 / sram_6t_cell
XI4 BL BLB PRE_B vdd / precharge_circuit
XI5 BL BLB D gnd vdd W_EN / write_circuit
XI6 BL BLB gnd SE vdd / sence_amp
.ENDS

