************************************************************************
* auCdl Netlist:
* 
* Library Name:  my_sram
* Top Cell Name: write_circuit
* View Name:     schematic
* Netlisted on:  Mar 17 12:31:46 2026
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: my_sram
* Cell Name:    small_inv
* View Name:    schematic
************************************************************************

.SUBCKT small_inv GND VDD in out
*.PININFO in:I out:O GND:B VDD:B
MM0 out in VDD VDD PMOS_VTG W=135.00n L=50n m=1
MM1 out in GND GND NMOS_VTG W=90n L=50n m=1
.ENDS

************************************************************************
* Library Name: my_sram
* Cell Name:    write_circuit
* View Name:    schematic
************************************************************************

.SUBCKT write_circuit BL BLB D GND VDD W_EN
*.PININFO D:I W_EN:I BL:B BLB:B GND:B VDD:B
MM3 net22 net21 GND GND NMOS_VTG W=180.0n L=50n m=1
MM2 BLB W_EN net22 GND NMOS_VTG W=180.0n L=50n m=1
MM1 net20 D GND GND NMOS_VTG W=180.0n L=50n m=1
MM0 BL W_EN net20 GND NMOS_VTG W=180.0n L=50n m=1
XI0 GND VDD D net21 / small_inv
.ENDS

