// Generated for: spectre
// Generated on: Feb  4 16:21:40 2026
// Design library name: EECS391
// Design cell name: Sim_nor2
// Design view name: schematic
simulator lang=spectre
global 0
parameters vdd=1.1
include "/vol/eecs391/FreePDK45/ncsu_basekit/models/hspice/hspice_nom.include"

// Library name: EECS391
// Cell name: inverter
// View name: schematic
subckt inverter gnd in out vdd
    M0 (out in gnd gnd) NMOS_VTG w=400n l=50n as=4.2e-14 ad=4.2e-14 \
        ps=610.0n pd=610.0n ld=105n ls=105n m=1
    M1 (out in vdd vdd) PMOS_VTG w=600n l=50n as=6.3e-14 ad=6.3e-14 \
        ps=810.0n pd=810.0n ld=105n ls=105n m=1
ends inverter
// End of subcircuit definition.

// Library name: EECS391
// Cell name: NOR2
// View name: schematic
subckt NOR2 A B gnd out vdd
    M1 (out B net16 vdd) PMOS_VTG w=1.2u l=50n as=1.26e-13 ad=1.26e-13 \
        ps=1.41u pd=1.41u ld=105n ls=105n m=1
    M0 (net16 A vdd vdd) PMOS_VTG w=1.2u l=50n as=1.26e-13 ad=1.26e-13 \
        ps=1.41u pd=1.41u ld=105n ls=105n m=1
    M3 (out A gnd gnd) NMOS_VTG w=400n l=50n as=4.2e-14 ad=4.2e-14 \
        ps=610.0n pd=610.0n ld=105n ls=105n m=1
    M2 (out B gnd gnd) NMOS_VTG w=400n l=50n as=4.2e-14 ad=4.2e-14 \
        ps=610.0n pd=610.0n ld=105n ls=105n m=1
ends NOR2
// End of subcircuit definition.

// Library name: EECS391
// Cell name: Sim_nor2
// View name: schematic
I15 (gnd net04 in_B vdd) inverter
I13 (gnd out net09 vdd) inverter
I7 (gnd net2 in_A vdd) inverter
I9 (gnd out net08 vdd) inverter
I10 (gnd out net07 vdd) inverter
I11 (gnd out net06 vdd) inverter
V_A (net2 gnd) vsource dc=0 type=pulse val0=0 val1=1.1V period=10n \
        delay=1n rise=20p fall=20p width=5n
V_B (net04 gnd) vsource dc=0 type=pulse val0=0 val1=1.1V period=20n \
        delay=1n rise=20p fall=20p width=10n
V2 (gnd 0) vsource dc=0 type=dc
V1 (vdd 0) vsource dc=vdd type=dc
I16 (in_A in_B gnd out vdd) NOR2
simulatorOptions options psfversion="1.1.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
tran tran stop=50n errpreset=moderate write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save I16:5 in_B in_A 
saveOptions options save=allpub
